US05618839
Trifluoromethanesulfonic acid 1,1-dimethyl-3-oxo-indan-5-yl ester
To a solution of 6-hydroxy-3,3-dimethyl-indan-1-one (4.01 g, 24.4 mmol) and 4-dimethylaminopyridine (DMAP, 5.97 g, 48.9 mmol) in 30 mL of methylene chloride was slowly added triflic acid anhydride (9.65 g, 34.2 mmol) at -78° C. After stirring at room temperature for 1 hour, the mixture was diluted with methylene chloride (60 mL), washed with 1N HCl (10 mL×2) and water (10 mL), dried over magnesium sulfate, and evaporated. The residue was purified by flash chromatography (EtOAc:hexane=1:10 to 1:5) to give 5.58 g (74% yield) of the title compound; 1H-NMR (CDCl3) δ1.46 (s, 6H), 2.67 (s, 2H), 7.51 (dd, J=2.3, 8.4 Hz, 1H), 7.57 (d, J=2.3 Hz, 1H), 7.60 (d, J=8.4 Hz, 1H); MS m/e 309 (MH+).

reactant | 6-hydroxy-3,3-dimethyl-indan-1-one | 24.4 mmol, 4.01 g | OC1=CC=C2C(CC(C2=C1)=O)(C)C | C11H12O2
reactant | triflic acid anhydride | 34.2 mmol, 9.65 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
catalyst | 4-dimethylaminopyridine | 48.9 mmol, 5.97 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
product | Trifluoromethanesulfonic acid 1,1-dimethyl-3-oxo-indan-5-yl ester | 5.58 g, 74% yield | CC1(CC(C2=CC(=CC=C12)OS(=O)(=O)C(F)(F)F)=O)C | C12H11F3O4S
